US06706717B2
C. 3-[[2-[[(1,1-Dimethylethoxy)carbonyl]amino]thiazol-5-yl]thio]benzoic acid
A 1 N aqueous sodium hydroxide solution (50 mL, 50 mmol) was added dropwise to a stirred solution of 2-tert-butoxycarbonylamino-5-[(3-carbomethoxyphenyl)thio]thiazole (1.8 g, (contaminated with bis(tert-butoxycarbonyl)amino adduct)) in a methanol-THF mixture (160 mL, 3:1). The solution was stirred at rt. for 24 h and concentrated. The residue was acidified with 2 N aqueous HCl (30 mL) and the suspension was extracted with dichloromethane-methanol mixture (120 mL, 3:1, 2×). The combined organic extract was dried (MgSO4), filtered and concentrated in vacuo to obtain the titled compound (1.32 g, 75% overall yield from Example 1, part A) as an off-white solid.

reactant | sodium hydroxide | 50 mmol, 1 N, 50 mL | [OH-].[Na+]
reactant | 2-tert-butoxycarbonylamino-5-[(3-carbomethoxyphenyl)thio]thiazole | 1.8 g | C(C)(C)(C)OC(=O)NC=1SC(=CN1)SC1=CC(=CC=C1)C(=O)OC | C16H18N2O4S2
solvent | methanol THF | 160 mL | CO.C1CCOC1
product | 3-[[2-[[(1,1-Dimethylethoxy)carbonyl]amino]thiazol-5-yl]thio]benzoic acid | CC(C)(OC(=O)NC=1SC(=CN1)SC=1C=C(C(=O)O)C=CC1)C | C15H16N2O4S2
